US07723345B2
An Emrys process vial (2-5 ml) for microwave was charged with (6-chloro-pyrazin-2-yl)-(3-cyclopentyloxy-4-methoxy-benzyl)-amine (50 mg, 0.15 mmol), 4-borono-L-phenylalanine (31 mg, 0.15 mmol) and 2 ml of acetonitrile. Aqueous sodium carbonate (2 ml, 1M) was added to the solution followed by 5 mol percent of dichlorobis(triphenylphosphine)-palladium(II). The reaction vessel was sealed and heated to 150° C. for 5 minutes by microwave. After cooling, the reaction mixture was evaporated to dryness. The residue was dissolved in 2.5 ml of methanol, and the product was purified with Prep-LC to give 5.5 mg of 2-amino-3-{4-[6-(3-cyclopentyloxy-4-methoxy-benzylamino)-pyrazin-2-yl]-phenyl}-propionic acid, yield 6%. 1H-NMR (400 MHz, DMSO-d6): δ 1.46 (m, 2H), 1.62 (m, 4H), 3.01 (m, 2H), 3.08 (m, 2H), 3.65 (s, 3H), 4.0 (m, 1H), 4.45 (d, 2H), 4.65 (m, 1H), 6.90 (s, 2H), 6.95 (s, 1H), 7.32 (d, 2H), 7.60 (t, 1H), 7.90 (s, 1H), 7.95 (d, 2H), 8.25 (s, 1H).

reactant | (6-chloro-pyrazin-2-yl)-(3-cyclopentyloxy-4-methoxy-benzyl)-amine | 0.15 mmol, 50 mg | ClC1=CN=CC(=N1)NCC1=CC(=C(C=C1)OC)OC1CCCC1 | C17H20ClN3O2
reactant | 4-borono-L-phenylalanine | 0.15 mmol, 31 mg | B(O)(O)C1=CC=C(C[C@H](N)C(=O)O)C=C1 | C9H12BNO4
reactant | sodium carbonate | 1M, 2 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | dichlorobis(triphenylphosphine)-palladium(II) | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 2-amino-3-{4-[6-(3-cyclopentyloxy-4-methoxy-benzylamino)-pyrazin-2-yl]-phenyl}-propionic acid | 5.5 mg, yield 6% | NC(C(=O)O)CC1=CC=C(C=C1)C1=NC(=CN=C1)NCC1=CC(=C(C=C1)OC)OC1CCCC1 | C26H30N4O4
